US05567712
To a solution of 1-[4-[2-(1-piperdinyl)ethoxy]phenoxy]-2-(4-methoxyphenyl)-6-methoxynaphthalene hydrochloride (1.00 g, 1.92 mmol) in 20 mL of anhydrous methylene chloride under N2 at 0° C. was added boron tribromide (0.74 mL, 7.71 mmol). The resulting mixture was allowed to warm to 8° C. and stirred for 2 hours. The reaction was then poured into a stirring solution of cold saturated sodium bicarbonate (200 mL). When gas evolution ceased, the aqueous layer was extracted with 5% methanol/chloroform (3×100 mL). The organic layer was combined, dried (sodium sulfate), and concentrated in vacuo to an oil. The crude free base was dissolved in 20 mL of ethyl acetate, and treated with ethyl ether-hydrochloric acid. A precipitate formed that was collected by filtration. Drying in vacuo provided 798 mg (83%) of 1-[4-[2-(1-piperdinyl)ethoxy]-phenoxy]-2-(4-hydroxyphenyl)-6-hydroxynaphthalene hydrochloride as a white solid. mp 130°-136° C. 1H NMR (DMSO-d6) δ9.89 (s, 1H), 9.80 (bs, 1H), 9.46 (s, 1H), 7.68 (d, J=8.5 Hz, 1H), 7.64 (d, J=9.2 Hz, 1H), 7.50 (d, J=8.5 Hz, 1H), 7.40 (d, J=8.8 Hz, 2H), 7.20 (d, J=2.2 Hz, 1H), 7.04 (dd, J=9.2, 2.2 Hz, 1H), 6.82 (d, J=9.1 Hz, 2H), 6.76 (d, J=8.8 Hz, 2H), 6.61 (d, J=9.1 Hz, 2H), 4.21 (m, 2H), 3.45-3.33 (m, 4H), 2.92 (m, 2H), 1.80-1.63 (m, 5H), 1.35 (m, 1H). FD mass spec: 456. Anal. Calcd. for C29H29NO4 ·1.0 HCl: C, 70.80; H, 6.15; N, 2.85. Found: C, 70.52; H, 6.19; N, 2.55.

reactant | 1-[4-[2-(1-piperdinyl)ethoxy]phenoxy]-2-(4-methoxyphenyl)-6-methoxynaphthalene hydrochloride | 1.92 mmol, 1.00 g | Cl.N1(CCCCC1)CCOC1=CC=C(OC2=C(C=CC3=CC(=CC=C23)OC)C2=CC=C(C=C2)OC)C=C1
reactant | boron tribromide | 7.71 mmol, 0.74 mL | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-[2-(1-piperdinyl)ethoxy]-phenoxy]-2-(4-hydroxyphenyl)-6-hydroxynaphthalene hydrochloride | 798 mg, 83% | Cl.N1(CCCCC1)CCOC1=CC=C(OC2=C(C=CC3=CC(=CC=C23)O)C2=CC=C(C=C2)O)C=C1 | InChI=1S/C29H29NO4.ClH/c31-23-7-4-21(5-8-23)27-14-6-22-20-24(32)9-15-28(22)29(27)34-26-12-10-25(11-13-26)33-19-18-30-16-2-1-3-17-30;/h4-15,20,31-32H,1-3,16-19H2;1H
